datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:13][O:12][C:11]([H:14])([H:15])[H:16],76.48352
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:15])[H:5].[C:10](=[C:11][C:12]([H:16])([H:17])[H:18])([H:13])[H:14],108.198
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([S:13][H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:16])[H:6].[C:11](=[C:12][S:13][H:17])([H:14])[H:15],59.4128
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:23]([C:22]([H:26])([H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:10])([H:11])[H:12],14.6858
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4],-0.8368
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])([H:9])[H:10],54.6849
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:16](=[C:17]([H:19])[H:20])[H:18])([H:8])[H:9],19.7066
[C:0](#[C:1][N:2]([H:4])[H:5])[H:3].[O:6]>>[C:0](#[C:1][N:2][H:5])[H:3].[H:4][O:6],26.560032
[C-:0]#[O+:1].[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[C:0](=[O:1])[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12],13.9327
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:7])([H:5])[H:6],72.8016
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5](=[C:6]([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[S:1])[H:3].[H:2][C:4]([C:5](=[C:6]([H:10])[H:11])[H:9])([H:7])[H:8],134.976
[C:0](=[C:1]1[C:2]([H:12])[c:3]2[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[C:9]1([H:17])[H:18])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[C:9]([H:17])[H:18])[H:12])([H:10])[H:11],224.676616
[C:0](#[C:1][O:2][H:4])[H:3].[H:5]>>[C:0](#[C:1][O:2])[H:3].[H:4][H:5],4.184
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])[H:5],44.5178
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]([c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:18])[H:6])([H:4])[H:5].[S:11][c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],16.3176
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:17][O:18][H:19],71.79744
[C:0](=[C:1]=[O:2])([H:3])[H:4].[O:5][H:6]>>[C:0](=[C:1]=[O:2])[H:4].[H:3][O:5][H:6],8.368
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([S:16][H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:17])([H:18])[H:19])([S:16][H:21])[H:20],28.0328
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9](=[C:10]([H:12])[H:13])[H:11],3.59824
